US07947738B2
(13-a) Ethyl 2-sec-butylpent-4-enoate
Lithium chloride (9.67 g, 228.1 mmol) and water (2.05 mL, 113.9 mmol) were added to a dimethyl sulfoxide (60 mL) solution of diethyl allyl(sec-butyl)malonate (30.90 g, 120.5 mmol), and the mixture was stirred at 185° C. for 6 hours. The mixture was treated with water, followed by extraction with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain the compound of interest as a brown oil substance. This compound was used in the next reaction without being purified.

reactant | Lithium chloride | 228.1 mmol, 9.67 g | [Cl-].[Li+]
reactant | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
reactant | diethyl allyl(sec-butyl)malonate | 120.5 mmol, 30.90 g | C(C=C)C(C(=O)OCC)(C(=O)OCC)C(C)CC | C14H24O4
solvent | water | O | H2O
solvent | water | 113.9 mmol, 2.05 mL | O | H2O
product | Ethyl 2-sec-butylpent-4-enoate | C(C)(CC)C(C(=O)OCC)CC=C | C11H20O2
